US08614206B2
To a stirred solution of compound ethyl 2-benzamido-2-cyanoacetate (0.46 g, 2 mmol) in pyridine (20 mL) was added Lawesson's reagent (0.81 g, 2 mmol). The reaction mixture was heated at reflux for 15 hr. It was then concentrated and diluted with EtOAc (40 mL). The diluted mixture was washed with water (3×20 mL), brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (10:1 PE/EtOAc) to afford ethyl 5-amino-2-phenylthiazole-4-carboxylate (0.2 g, 40%) as yellow solid: 1H-NMR (CDCl3, 500 MHz) δ (ppm): 7.80 (d, J=6.5 Hz, 1H), 7.36-7.41 (m, 3H), 4.43 (q, J=7.0 Hz, 2H), 1.44 (t, J=7.0 Hz, 3H); MS (ESI) m/z: 249 [M+H+].

reactant | ethyl 2-benzamido-2-cyanoacetate | 2 mmol, 0.46 g | C(C1=CC=CC=C1)(=O)NC(C(=O)OCC)C#N | C12H12N2O3
reactant | Lawesson's reagent | 2 mmol, 0.81 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 5-amino-2-phenylthiazole-4-carboxylate | 0.2 g, 40% | NC1=C(N=C(S1)C1=CC=CC=C1)C(=O)OCC | C12H12N2O2S
